US03948915
2.69 g of methyl cyanoacetimidate hydrochloride, 1.68 g of cyanamide and 5.0 g of molecular sieve (type 4A, 60 mesh through) were suspended in 30 ml of benzene and the suspension was made to react for 5 hours at 25°C under stirring. After reaction, insoluble materials were filtered off and then the filtrate was concentrated to dryness in vacuo to give 2.26 g of methyl N-cyanocyanoacetimidate (yield 91.2%) mp 45.5°C.

reactant | methyl cyanoacetimidate hydrochloride | 2.69 g | Cl.C(#N)CC(OC)=N
reactant | cyanamide | 1.68 g | N#CN | CH2N2
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | methyl N-cyanocyanoacetimidate | 2.26 g, yield 91.2% | C(#N)N=C(CC#N)OC | C5H5N3O
